US04024144
11.5 g of sulphophthaloperinone, prepared from 4-sulphophthalic acid and 1,8-naphthylenediamine in N-methylpyrrolidone, are suspended in 100 ml of xylene. 9.2 g of phosphorus oxychloride are added and the mixture is heated to 80° C for 6 - 7 hours, whilst stirring. 25 - 30 ml of xylene are then distilled off under reduced pressure and after cooling the reaction product which has precipitated is filtered off and the residue is rinsed with petroleum ether. 11.6 g of phthaloperinone-sulphochloride are obtained.

reactant | sulphophthaloperinone | 11.5 g | S(=O)(=O)(O)C=1C(C=2N3C=C4C=CC=CC4=C3N=C3C=CC=C(C1)C23)=O | C18H10N2O4S
reactant | 4-sulphophthalic acid | S(=O)(=O)(O)C=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H6O7S
reactant | 1,8-naphthylenediamine | C1=CC2=C(C(=C1)N)C(=CC=C2)N | C10H10N2
reactant | phosphorus oxychloride | 9.2 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | phthaloperinone sulphochloride | 11.6 g | C1(C=CC2=CC=CC3=NC4=C5C=CC=CC5=CN4C1=C23)=O.S(=O)(=O)(O)Cl | InChI=1S/C18H10N2O.ClHO3S/c21-15-9-8-11-5-3-7-14-16(11)17(15)20-10-12-4-1-2-6-13(12)18(20)19-14;1-5(2,3)4/h1-10H;(H,2,3,4)
